US07435815B2
N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-N-(4-hydroxy-butyl)-acetamide
prepared by reaction of [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid with 4-benzylamino-butan-1-ol

reactant | [(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-acetic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(C1=CC=C(C=C1)C)CC(=O)O | C19H23NO4S
reactant | 4-benzylamino-butan-1-ol | C(C1=CC=CC=C1)NCCCCO | C11H17NO
product | N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-p-tolyl-amino]-N-(4-hydroxy-butyl)-acetamide | C(C1=CC=CC=C1)N(C(CN(C1=CC=C(C=C1)C)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O)CCCCO | C30H38N2O4S
